Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Intracranial hemorrhage
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year-old man with a history of severe lumbar stenosis who 
presented as a transfer from ___ for 
management of intracranial hemorrhage.

The patient was apparently found by his home health aide to be 
confused the morning of admission.  She reportedly noted that he 
had fallen several times. Paramedics were called, who reportedly 
noted him to be combative and oriented to name only.  He fell on 
the scene, but did not hit his head.  He was aggressive and was 
eventually handcuffed by police who were present.  There was 
concern that he had overdosed on Oxycontin, as there were 
reportedly pills that could not be accounted for.  On arrival to 
the OSH ER at ~1:30 pm, he was "confused, yelling, 
inappropriate, and unable to answer questions appropriately."  
He was moving all extremities equally, and no other neurologic 
deficits were noted.  He received a dose of lorazepam for 
sedation.  CBC and chemistry were unremarkable.  Coagulation 
studies were not checked.  CK was elevated at 413 and Tn 0.02.  
EKG showed sinus rhythm (rate 89) and PVCs with incomplete RBBB. 
 CT of the head revealed multiple intracranial hemorrhage sites, 
including a larger bleed in the left occipitoparietal lobe and a 
smaller one in the right frontal region.  He was transferred to 
___ for further evaluation and management.  Neurology was 
consulted.  He is being loaded with 1 gram of Dilantin here.

Review of Systems: Unable to provide at this time, given state 
of confusion.  Of note, his son at bedside had last seen him 
___, and noted him to be far more coherent and lucid than 
this evening.  However, he does acknowledge that his father had 
been more forgetful recently.
 
Past Medical History:
Severe lumbar stenosis and myofascial pain syndrome, seen in 
pain clinic at ___, recently received trigger point injections 
In his recent pain clinic note from ___, he was 
described as a "difficult historian and seems to forget if the 
procedures actually helped him or not...   He keeps talking 
about his history as an ___ and his need to find a job.  He 
seems to be forgetting things that happened recently." 
 
Social History:
___
Family History:
Father with an MI
 
Physical Exam:
On admission:
Vitals: T 98.2 F  BP 150/78---> 138/73   P 96--->67  RR 18  SaO2 
96 RA
General: elderly man, confused, occasionally yelling and 
writhing in bed  with restraints
HEENT: NC/AT, sclerae anicteric, MM, no exudates in oropharynx 
Neck: actively moving, does not allow passive assessment, but 
does not appear rigid, no bruits
Lungs: clear to auscultation 
CV: regular rate and rhythm, no MMRG 
Abdomen:  soft, non-tender, non-distended, bowel sounds present
Ext: warm, no edema, pedal pulses appreciated
Skin: abrasions in pretibial areas
 
Neurologic Examination: 
Mental Status: Keeps eyes closed, unable to relay history or 
cooperate with exam, occasionally yells at examiner, responds in 
full sentences at times, though usually not appropriate to the 
questions asked 
 
Cranial Nerves: Would not cooperate for fundoscopy; blinks to 
threat bilaterally. Pupils equally round and reactive to light, 
4 to 3.5 mm bilaterally.  Does look to left and right, would not 
cooperate with assessment of vertical gaze, no gaze deviation or 
nystagmus. Facial movement appears normal and symmetric.  
Hearing intact to conversational tone. Palate elevates midline 
and tongue protrudes midline while yelling.   
 
Motor: Normal bulk throughout.  Does not relax for formal 
assessment of tone and does not cooperate with formal strength 
assessment.  He appears to be moving all extremities 
spontaneously antigravity and symmetrically.  No tremor noted.
    
Sensation: Withdraws symmetrically to noxious throughout.
 
Reflexes:  2's and symmetric throughout.  Toes were withdrawal 
and equivocal
bilaterally.  
 
Coordination and gait could not be assessed given mental state.
 
Pertinent Results:
On admission:
___ 05:00PM BLOOD WBC-9.4 RBC-4.27* Hgb-14.1 Hct-38.7* 
MCV-91 MCH-32.9* MCHC-36.3* RDW-15.1 Plt ___
___ 05:00PM BLOOD Neuts-78.6* Lymphs-14.5* Monos-5.5 
Eos-1.1 Baso-0.2
___ 05:00PM BLOOD ___ PTT-24.2 ___
___ 05:00PM BLOOD Glucose-100 UreaN-17 Creat-0.7 Na-144 
K-3.7 Cl-109* HCO3-27 AnGap-12
___ 05:00PM BLOOD ALT-21 AST-25 LD(LDH)-195 CK(CPK)-402* 
AlkPhos-82 TotBili-0.5
___ 05:11AM BLOOD Albumin-3.9 Calcium-8.8 Phos-3.5 Mg-2.1
___ 05:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:04AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

At end of hospitalization:
___ 05:48AM BLOOD WBC-11.9* RBC-4.32* Hgb-14.0 Hct-40.1 
MCV-93 MCH-32.4* MCHC-34.9 RDW-14.7 Plt ___
___ 05:48AM BLOOD Neuts-83.4* Lymphs-8.7* Monos-7.1 Eos-0.7 
Baso-0.1
___ 05:48AM BLOOD ___ PTT-23.5 ___
___ 05:48AM BLOOD Glucose-141* UreaN-10 Creat-0.6 Na-141 
K-3.7 Cl-105 HCO3-21* AnGap-19
___ 05:33AM BLOOD Phenyto-10.8

Cardiac enzymes:
___ 05:00PM BLOOD CK(CPK)-402* CK-MB-12* MB Indx-3.0 
cTropnT-<0.01
___ 05:11AM BLOOD CK(CPK)-795* CK-MB-19* MB Indx-2.4 
cTropnT-<0.01
___ 06:33AM BLOOD CK(CPK)-710* CK-MB-10 MB Indx-1.4 
cTropnT-<0.01
___ 08:57AM BLOOD CK(CPK)-757* CK-MB-10 MB Indx-1.3 
cTropnT-<0.01

UCx: probable enterococcus w/ 3000-4000 colonies, U/A ___ WBC, 
neg leuks, neg nitr

Imaging:
HCT ___: There are multiple foci of high-density material 
within the brain parenchyma. In the left parieto-occipital 
cortex, there is a heterogeneous region measuring 3.4 x 3.9 cm, 
representing parenchymal hemorrhage. A second focus of 
intraparenchymal hemorrhage is located in the right frontal 
cortex, measuring 1.3 x 1.1 cm. Both areas are surrounded by 
edema, and on the left, there is effacement of the overlying 
sulci. However, little mass effect is exerted on the adjacent 
lateral ventricle. There is no shift of midline structures and 
the basilar cisterns are patent, with no herniation. 
IMPRESSION: 
1. Multiple intraparenchymal hemorrhages in a nonvascular 
distribution, seen in the left parietooccipital cortex and right 
frontal cortex. There is no associated herniation or 
intraventricular extent of bleeding. Given patient demographics, 
diagnostic considerations favor amyloid angiopathy. 
2. Complete opacification of the right frontal and maxillary 
sinuses. 

CXR: No acute pulmonary process.

CT C-spine: IMPRESSION: 
1. No definite evidence of acute fracture. 
2. Multilevel severe degenerative changes. 
3. Anterolisthesis of C7 on T1 of uncertain chronicity. If there 
is concern for ligamentous injury, MRI should be obtained, as CT 
does not provide sufficient detail for evaluation of ligaments 
or spinal cord. 
NOTE ADDED AT ATTENDING REVIEW: There are facet joint fusions on 
the left at C2-3, ___, and ___, and on the right at 
every level from C2 to C7. Osteophytes and ossification of the 
posterior longitudinal ligament narrow the spinal canal at C3-4, 
and posterior to the body of C4. This is more severe on the 
right than left and likely produces cord compression, along with 
severe narrowing of the right neural foramen. There is similar 
canal and right foraminal narrowing at C4-5, ___, and ___. The 
scout views demonstrate severe degenerative changes of the left 
shoulder. 

HCT ___: 1. No significant change of the size of the two known 
intraparenchymal hemorrhages. Marginal increase of 
___ edema at the left parieto-occipital lobe. 
2. Unchanged right maxillary sinus disease, likely chronic in 
nature. 

MRI ___: Redemonstration of the known intraparenchymal 
hematoma in the left parietal and the right frontal lobes, with 
surrounding edema. 

CXR ___:  Suggestion of a small nodular opacity project over 
the right mid lung at the upper margin of the fourth anterior 
rib, which could be a lung lesion or pleural calcification. 
Lungs are otherwise clear. No indication of pneumonia. Heart 
size is normal. No pleural effusion. CT scanning recommended 
when feasible.  

R Wrist x-ray ___: Lucency is consistent with the clinical 
diagnosis of amyloid angiopathy. Probable post-traumatic changes 
involving the triscaphe region. 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of severe 
lumbar stenosis who presented as a transfer from ___ 
___ for management of intracranial hemorrhage.  His 
examination was greatly limited by his encephalopathy, though at 
times he was noted to have right sided weakness.  Given the 
history of cognitive difficulties previously reported and the 
lobar location of the hemorrhages, this was thought most 
concerning for amyloid angiopathy.  He underwent a full toxic, 
metabolic, and infectious evaluation to determine if there might 
be additional features contributing to his confusional state, 
which were negative. He was started on phenytoin to prevent 
seizures; he will need to have a level checked in 2 days and his 
dose adjusted as needed.

He was able to eat with his family prior to discharge, so was 
thought to not require a PEG tube. Swallow eval recommended: PO 
diet of soft solids, thin liquids, PO meds whole with puree. 1:1 
supervision with meals.  Aspiration precautions. Alternate 
between bites and sips. 

He was started on ampicillin-sulbactam and switched to augmentin 
to treat for sinusitis, for a 10 day course (begun ___.

Of note, CXR showed a possible lung nodule, which needs to be 
re-evaluated by CT when he becomes more cooperative.
 
Medications on Admission:
According to his son: 
-Aspirin 325 mg daily
-Oxycontin 

According to his recent ___ Pain Clinic Note, he was on:
-Aleve 440 mg BID
-Saw ___
-Lidoderm 5% patch
 
Discharge Medications:
1. Phenytoin 50 mg Tablet, Chewable Sig: Four (4) Tablet, 
Chewable PO three times a day.  
2. Augmentin XR 1,000-62.5 mg Tablet Sustained Release 12 hr 
Sig: Two (2) Tablet Sustained Release 12 hr PO every twelve (12) 
hours for 6 days.  
3. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Multifocal intracerebral hemorrhage

 
Discharge Condition:
Alert, interactive, but not answering questions appropriately. 
Will follow some commands, but not consistently. He does not 
require a sitter or restraints for agitation. He has right sided 
weakness, that is sometimes more or less apparent depending on 
his ability to follow commands.

 
Discharge Instructions:
You have been admitted with a stroke - a bleed in your brain. 
 
Followup Instructions:
___